US06919338B2
N-(3,4-difluorophenyl)-2-(2-tert-butoxycarbonylamino-1,3-thiazole-5-yl)-2-hydroxyacetamide
N-(3,4-difluorophenyl)-2-(2-tert-butoxycarbonylamino-1,3-thiazole-5-yl) (oxo)acetamide (938 mg, 2.4 mmol) in THF (50 ml) and MeOH (10 ml) was treated with sodium borohydride (93 mg, 2.4 mmol) for 30 minutes. The mixture was evaporated, the residue dissolved in ethanol (3 ml) water (25 ml) was added, and the pH adjusted to 6, more water was added, a solid was recovered, dried, recristalized in ether/petroleum ether to give title compound (850 mg, 90%).

reactant | N-(3,4-difluorophenyl)-2-(2-tert-butoxycarbonylamino-1,3-thiazole-5-yl) (oxo)acetamide | 2.4 mmol, 938 mg | FC=1C=C(C=CC1F)NC(C(C1=CN=C(S1)NC(=O)OC(C)(C)C)=O)=O | C16H15F2N3O4S
reactant | sodium borohydride | 2.4 mmol, 93 mg | [BH4-].[Na+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | MeOH | 10 ml | CO | CH4O
product | N-(3,4-difluorophenyl)-2-(2-tert-butoxycarbonylamino-1,3-thiazole-5-yl)-2-hydroxyacetamide | 850 mg, 90% | FC=1C=C(C=CC1F)NC(C(O)C1=CN=C(S1)NC(=O)OC(C)(C)C)=O | C16H17F2N3O4S
